US05589478
To a solution of 4,6-dichloropyrimidine (1.33 g) and 4-tertbutylbenzenesulfonamide (1.96 g) in dimethylformamide (20 ml) is added sodium hydride (60% dispersion-type, 714 mg). The mixture is stirred at room temperature for two hours, and the reaction solution is diluted with 10% hydrochloric acid and water. The mixture is extracted with ethyl acetate, and the ethyl acetate layer is washed, dried, and evaporated to remove the solvent. The residue is recrystallized from ethyl acetate to give 4-tert-butyl-N-(6-chloropyrimidin-4-yl)benzenesulfonamide (2.02 g).

reactant | 4,6-dichloropyrimidine | 1.33 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 4-tertbutylbenzenesulfonamide | 1.96 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N | C10H15NO2S
reactant | sodium hydride | 714 mg | [H-].[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-tert-butyl-N-(6-chloropyrimidin-4-yl)benzenesulfonamide | 2.02 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1)Cl | C14H16ClN3O2S
